US09359362B2
Ethyl (rac)-9-(4-cyanophenyl)-7-methyl-6-[3-(trifluoromethyl)phenyl]-6,9-dihydropyrimido[1,2-e]-purin-8-carboxylate
(rac)-Ethyl 9-(4-cyanophenyl)-7-methyl-6,9-dihydropyrimido[1,2-e]purine-8-carboxylate (20 mg, 55 μmol), 3-(trifluoromethyl)phenylboronic acid (21 mg, 0.11 mmol, 2 eq.), anhydrous copper(II) acetate (20 mg, 0.11 mmol, 2 eq.) and molecular sieve (50 mg, 4 Å) were initially charged. Under an atmosphere of argon, abs. dichloromethane (2 ml), pyridine (18 μl, 0.22 mmol, 4 eq.) and triethylamine (15 μl, 0.11 mmol, 2 eq.) were added. After 12 h of stirring, the mixture was filtered through kieselguhr and the filtrate was concentrated under reduced pressure. The residue was purified by preparative HPLC (Gromsil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA). After lyophilization, the product was obtained as a solid (5.6 mg, 19% of theory).

reactant | (rac)-Ethyl 9-(4-cyanophenyl)-7-methyl-6,9-dihydropyrimido[1,2-e]purine-8-carboxylate | 55 μmol, 20 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1C=1N=CN=CC1N2)C)C(=O)OCC | C19H16N6O2
reactant | 3-(trifluoromethyl)phenylboronic acid | 0.11 mmol, 21 mg, 2 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | pyridine | 0.22 mmol, 18 μl, 4 eq. | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 0.11 mmol, 15 μl, 2 eq. | C(C)N(CC)CC | C6H15N
catalyst | copper(II) acetate | 0.11 mmol, 20 mg, 2 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | Ethyl (rac)-9-(4-cyanophenyl)-7-methyl-6-[3-(trifluoromethyl)phenyl]-6,9-dihydropyrimido[1,2-e]-purin-8-carboxylate | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1C=1N=CN=CC1N2)C2=CC(=CC=C2)C(F)(F)F)C)C(=O)OCC | C26H19F3N6O2
